US09326987B2
4-[5-(Chloromethyl)-1,3,4-oxadiazol-2-yl]-6-(1H-indol-4-yl)-1-(phenylsulfonyl)-1H-indazole
6-(1H-Indol-4-yl)-1-(phenylsulfonyl)-4-(1H-tetrazol-5-yl)-1H-indazole (1.41 g, 3.19 mmol) was slurried into anhydrous chloroform (20 ml), treated with chloroacetyl chloride (1.023 ml, 12.78 mmol) and heated at 100° C. in a Biotage Initiator microwave for 30 mins, the mixture was split into 4 batches for the microwave reaction. The mixtures were allowed to cool to room temperature and the resultant precipitate collected by filtration to give the title compound as a yellow/brown solid (0.237 g). LCMS (Method A): Rt 1.25 mins, MH+ 490.

reactant | 6-(1H-Indol-4-yl)-1-(phenylsulfonyl)-4-(1H-tetrazol-5-yl)-1H-indazole | 3.19 mmol, 1.41 g | N1C=CC2=C(C=CC=C12)C1=CC(=C2C=NN(C2=C1)S(=O)(=O)C1=CC=CC=C1)C1=NN=NN1 | C22H15N7O2S
reactant | chloroacetyl chloride | 12.78 mmol, 1.023 ml | ClCC(=O)Cl | C2H2Cl2O
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-[5-(Chloromethyl)-1,3,4-oxadiazol-2-yl]-6-(1H-indol-4-yl)-1-(phenylsulfonyl)-1H-indazole | 0.237 g | ClCC1=NN=C(O1)C1=C2C=NN(C2=CC(=C1)C1=C2C=CNC2=CC=C1)S(=O)(=O)C1=CC=CC=C1 | C24H16ClN5O3S
